US08623889B2
Step 1: 7-(6-fluoro-4-methylpyridin-3-yl)isoquinolin-3-amine
A mixture of 7-bromoisoquinolin-3-amine (410.5 mg; 1.840 mmol), (6-fluoro-4-methyl-3-pyridyl)boronic acid (374.1 mg; 2.414 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (70.4 mg; 0.0994 mmol), potassium carbonate (624.3 mg; 4.517 mmol), dioxane (6.0 mL; 70 mmol) and water (0.6 mL; 30 mmol) was subjected to microwave irradiation at 120° C. for 40 minutes. The reaction mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate, filtered, and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (40 g silica, solvent gradient: 20-100% ethyl acetate in dichloromethane) to yield 389.0 mg (83%) of the title compound. LCMS (ESI): M+H=254.2.

reactant | 7-bromoisoquinolin-3-amine | 1.840 mmol, 410.5 mg | BrC1=CC=C2C=C(N=CC2=C1)N | C9H7BrN2
reactant | (6-fluoro-4-methyl-3-pyridyl)boronic acid | 2.414 mmol, 374.1 mg | FC1=CC(=C(C=N1)B(O)O)C | C6H7BFNO2
reactant | potassium carbonate | 4.517 mmol, 624.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | 70 mmol, 6.0 mL | O1CCOCC1 | C4H8O2
reactant | water | 30 mmol, 0.6 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.0994 mmol, 70.4 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 7-(6-fluoro-4-methylpyridin-3-yl)isoquinolin-3-amine | 389.0 mg, 83% | FC1=CC(=C(C=N1)C1=CC=C2C=C(N=CC2=C1)N)C | C15H12FN3
